* TL082 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* ------------------------------------------------------------------------
*|(C) Copyright Texas Instruments Incorporated 2007. All rights reserved. |
*|                                                                        |
*|This Model is designed as an aid for customers of Texas Instruments.    |
*|No warranties, either expressed or implied, with respect to this Model  |
*|or its fitness for a particular purpose is claimed by Texas Instruments |
*|or the author.  The Model is licensed solely on an "as is" basis.  The  |
*|entire risk as to its quality and performance is with the customer.     |
* ------------------------------------------------------------------------
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL082    1 2 3 4 5
*
C1   11 12 3.498E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 8.942E-9
ISS   3 10 DC 195.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 150
RO2   7 99 150
RP    3  4 2.143E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.200
VE   54  4 DC 2.200
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25

.MODEL DX D (IS=800.0E-18)
.MODEL JX PJF (IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS
